US05232940
Trifluoroacetic anhydride (3.5 ml) was added dropwise to a stiffed mixture of 85% w/v hydrogen peroxide solution (0.56 ml) in dichloromethane (15 ml) maintaining at 0°-10° C. After warming to 20° C. during 5 minutes, a solution of 3-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyanopyrazole (1.0 g; hereinafter described in Reference Example 33) in dichloromethane (10 ml) was added dropwise over 5 minutes. A temperature rise of 10° C. was observed during the addition, and the mixture heated under reflux for 1.5 hours. After cooling, the solution was poured onto excess water, and the organic solution washed in turn with solutions of sodium bicarbonate and sodium bisulphite. Drying over anhydrous magnesium sulphate, followed by evaporation in vacuo gave a buff solid, which was purified by chromatography on silica (Merck, 40-230 mesh, 0.7 kg cm-2) eluting with dichloromethane. The resultant white solid was recrystallized from a mixture of dichloromethane and hexane to give 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-3-nitropyrazole as white crystals (0.7 g), m.p. 163°-165° C.

reactant | Trifluoroacetic anhydride | 3.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrogen peroxide | 0.56 ml | OO | H2O2
reactant | 3-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyanopyrazole | NC1=NN(C=C1C#N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C11H5Cl2F3N4
reactant | water | O | H2O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(2,6-dichloro-4-trifluoromethylphenyl)-4-cyano-3-nitropyrazole | 0.7 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#N)[N+](=O)[O-] | C11H3Cl2F3N4O2
